Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I wanna be discharged...I wanna go home"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Briefly, Ms. ___ is a ___ year old woman, w HIV, currently 11 
wks
pregnant, unclear psychiatric history, cocaine use disorder, who
presented to the ED w initial complaints of nausea/vomiting,
appearing depressed, withdrawn, not taking any medications for
weeks.  
Per ED psychiatry note, She appears depressed, withdrawn, with
suicidal thoughts, significant impairment in ability care for
self currently, she has no supports and has been non adherent to
treatment for her medical conditions, including HIV and first
trimester pregnancy. 

On unit interview, pt was very agitated. She was yelling at the
treatment team repeatedly that she wants to sign a 3 day notice.
When asked if she understands what 3 day notice is for, she says
she just want to get out of here. She says she had a fall on the
street which lead her to the hospital. She says the ED doctors
came to ___ to her when she was sleeping. She denies she was
depressed or suicidal. She says she is ___ weeks pregnant, which
is an expected pregnancy. She is happy about it. She denies she
is married or have a significant other in her life. She did not
mention about the father of the baby. She says she recently
became homeless, she lives with a friend. She denies has any
families in town. She then yelled that she is ___ years old, so
she does not need anyone to take care of her living. Pt refused
to engage in any further meaning full conversations. She says 
she
is tired and just wants to lay down. She denies any depressive 
or
manic symptoms. She denies any paranoid or AVH. She denies 
SI/HI.

 
Past Medical History:
Currently pregnant
Says she has previously had a PE
HIV
 
Social History:
___
Family History:
Deferred
 
Physical Exam:
PHYSICAL EXAMINATION:
VS:   99.0PO  ___   95%RA
 
PE:
General: Young AA female, wearing glasses and hospital gown, 
very
angry, screaming at the top of her lungs towards the treatment
team during the interview. Gait is normal
Lungs: refused exam
CV: refused exam
Abdomen: refused exam
Extremities: refused exam
Skin: refused exam.
Neurological: refused exam

MENTAL STATUS EXAM:
Mental Status:
*Appearance: Unkempt AA fmeale who appears stated age,
sitting up in chair, very agitated, wearing hospitalgown.
 Behavior: Angry and minimally cooperative with interview, poor
eye contact, answers questions appropriately, notable for
agitation. 
*Mood and Affect: "I'm not suicidal!",  irritable and intense
affect
*Thought process : perseverate about being discharged from the
unit
*Thought Content : Denies any SI/HI/AVH
*Judgment and Insight: poor/poor
 
COGNITIVE EXAM:
Orientation: alert to person, place, time, situation
Attention/concentration: refused to answer
memory (___, ___, Mr. ___: refused to answer
Calculations: refused to answer
Language: refused to answer
Fund of knowledge: refused to answer
Proverbs: refused to answer 
Similarities/analogies: refused to answer
 
Pertinent Results:
___ 05:45AM BLOOD WBC-2.7* RBC-4.53 Hgb-11.8 Hct-34.1 
MCV-75* MCH-26.0 MCHC-34.6 RDW-14.2 RDWSD-38.4 Plt ___
___ 05:45AM BLOOD Glucose-82 UreaN-7 Creat-0.7 Na-137 K-3.9 
Cl-103 HCO3-22 AnGap-16
___ 05:45AM BLOOD ALT-12 AST-17 AlkPhos-79 TotBili-<0.2
___ 05:45AM BLOOD Calcium-8.8 Phos-4.9* Mg-1.7 Cholest-175
___ 05:45AM BLOOD VitB12-421
___ 05:45AM BLOOD %HbA1c-5.5 eAG-111
___ 05:45AM BLOOD Triglyc-134 HDL-62 CHOL/HD-2.8 LDLcalc-86
___ 05:45AM BLOOD TSH-0.63
___ 05:45AM BLOOD 25VitD-33
___ 05:30AM BLOOD HBsAg-Negative
___ 05:45AM BLOOD HIV Ab-POSITIVE* HIV1-POSITIVE* 
HIV2-NEGATIVE
___ 05:45AM BLOOD
___ 05:45AM BLOOD HCV Ab-Negative
___ 05:45AM BLOOD HIV1 VL-5.4*
___ 05:45AM BLOOD HEPATITIS Be ANTIGEN-Test      
 
Brief Hospital Course:
*) LEGAL / SAFETY
The patient was admitted to an locked inpatient psychiatric 
unit. She refused to sign CV upon admission. She was remained on 
Section 12b, which expires on ___. On admission she was placed 
on Q15 minute checks which is the lowest level of observation 
provided on this unit. On admission she was placed on monitored 
access of ___
 

PSYCHIATRIC
#)On admission, pt was very agitated, minimally cooperative with 
the treatment team for interview. Her thought and speech were 
very disorganized. She appears to have poor reality testing and 
very limited insight to her illness. 
During hospitalization, we started her on Zyprexa 5mg qhs with 
PRN Zyprexa 5mg BID. Pt appears to be less agitated and 
disorganized during this hospitalization. We discussed about 
signing CV multiple times for voluntary stay inpatient for 
adequate treatment and care. But patient consistently disagreed. 
We contacted patient's mom ___ regularly during this 
hospitalization, and held a family meeting over the phone on 
___. Mom is aware of her current hospital course. She is 
willing to assist the patient to all her outpatient 
appointments. She denies acute safety concern of harm to patient 
herself and to others. 

Upon discharge, patient denies thoughts of self-harm or harm to 
others. The patient has been able to contract for safety and has 
expressed that should any suicidal or homicidal thoughts return, 
she would notify staff immediately. Patient and her mother were 
provided with the BEST team number (___) for urgent 
evaluation as well. The patient has also expressed that she is 
invested in her treatment and looks forward to following up with 
all her intake appointments for her HIV, pregnancy, and 
psychiatry care. She will be discharged to the ___ 
___ for housing. 

GENERAL MEDICAL CONDITIONS
# Positive Gonorrhea: Urine GC test shows positive gonorrhea on
___. Other STI screening tests, including RPR, HCV, Hep B 
surface antigen, were negative. Consulted Ob/Gyn on ___ for 
positive gonorrhea and labial burning. 
-Per Ob/GYN rec, treated with IM Ceftriazone 250mg and 1gram PO 
Azithromycin on ___
-Test of cure can be performed ___ weeks after treatment. Will 
be followed up at ___ Care as outpatient.
- Reported Positive Gonorrhea to the MA DPH. Form is faxed to 
DPH on ___

# Labial Burning: 
- Per Ob/Gyn rec, routine vulvar hygiene, wearing loose 
underwear, PRN TP petroleum jelly or aquaphor for irritation
- Yeast culture-negative

#) Pregnancy: G2P1 by LMP, Pelvic Ultrasound ___ shows SIUP 
consistent with LMP. 
- Ob/Gyn was consulted in the ED on ___. 
- Per Ob/Gyn recs: 
Avoid NSAIDS
Vitamin B6 25mg q6h for nausea with Benadryl 25mg qhs
PRN Zofran
PRN Colace
Prenatal vitamin with iron supplement
Ordered Urine GC/C test on ___ for gonorrhea (see 
above)
Ordered Type and Screen on ___
- Pt is interested in Women's Signature Health Care for HIV and 
pregnancy f/u

# HIV: pt has not been taking her HIV medications
- Confirmed previous HIV treatment regimen from ___ 
Pharmacy
at ___ ___:
Pt has not been seen by this pharmacy since ___
Truvada 200-300mg daily (last filled ___
Reyataz 300mg daily (last filled ___
Epzicom 600-300mg daily (last filled ___

- Consulted ID for HIV management
- Checked HIV viral load 5.4, CD4 245
- RPR, HepB surface antigen, HCV-ab were negative
- Ordered HIV Genotype on ___, result is still pending by 
discharge. Will require outpatient follow up, and re-initiated 
HIV regimen
 

# ? Tuberculosis: unclear history, CXR ___ is unremarkable. At 
ED on ___, Infection Control Dr. ___ was contacted. Pt is 
not in the DPH records for active TB. Consulted ID on ___. Pt 
had no active TB symptoms during this hospitalization.

5. PSYCHOSOCIAL

#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Contacted patient's mom ___ regularly during this 
hospitalization. Family meeting with patient's mom was held over 
the phone on ___. 

# Guardianship
Mom ___ is trying to obtain legal guardianship in the 
community

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of  
starting Zyprexa medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.  We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.
 
#RISK ASSESSMENT
Static risk factors include: Race, Age of onset, single, 
unemployed, homeless

Modifiable risk factors include: 
suicidal ideation, disorganized and unpredictable behavior, 
medication noncompliance, no outpatient treatment, agitation, 
recklessness,  limited social supports, limited coping skills, 
poor reality testing

We attempted to modify these risk factors during this admission. 
 We established outpatient PCP and psychiatry appointments to 
ensure aftercare after discharge. We involved patient's father 
in the treatment course to ensure social support. 

Protective risk factors include:
help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, responsive to medication treatment

Based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

# Prognosis
The clinical prognosis is guarded, pt is prone to relapse into 
psychiatric decompensation, given hx of medication noncompliance

On ___: pt continued to insist that she would like to 
leave. During the 6 day hospital course, pt was compliant with 
medications and assessments on the unit. Her condition seemed to 
improved.
We held family meeting (telephone conference call with pt's 
mother, Ms. ___. Discussed concerns of the team. Pt's 
mother was not able to persuade pt to stay longer. Pt 
repeated:"I just wanna leave". Pt clearly denied any intent to 
hurt herself. She plans to stay away "from friends" who 
reportedly gave her cocaine. She plans to stay at ___ 
shelter in ___. She would like to continue with treatment in 
the Women's ___ in ___. Pt and mother agreed 
that pt's mother will help pt with transportation to the ___. 
Pt and mother were also educated about an appt with ___ worker 
(___). Pt was approved for D___ services. However, she 
needs to keep her appt on ___ at noon.
It was felt that there are no legal grounds to hold patient 
against her will. However, it has been opinion of inpt team that 
patient would have benefited from longer hospital stay.
Pt was discharged as her three day notice was expiring on that 
day.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  OLANZapine 5 mg PO QHS 
RX *olanzapine 5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
2.  Prenatal Vitamins 1 TAB PO DAILY 
RX *PNV with calcium ___ [Prenatal Vitamin Plus Low 
Iron] 27 mg iron-1 mg 1 tablet(s) by mouth Daily Disp #*14 
Tablet Refills:*0 
3.  Pyridoxine 25 mg PO QID 
RX *pyridoxine (vitamin B6) 25 mg 1 tablet(s) by mouth four 
times a day Disp #*56 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder
Likely Bipolar disorder.
Cocaine Abuse.
Learning disability not otherwise specified.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-Please contact BEST team for psychiatric evaluation if needed 
___
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___